US04968678
Fifteen grams (0.091 mol) of 4-pyridineacetic acid ethyl ester was dissolved in 180 ml of dry THF. The solution was transferred to a 1 l., 3-neck round bottom flask which had been flushed with nitrogen. To the mixture was added dropwise 55 ml of 1.0 M lithium aluminum hydride (0.055 mol) at approximately 0° C. The reaction mixture became yellow upon addition of the reducing agent. Following addition, the mixture was quenched with 2.1 ml of water at 0° C. followed by 2.1 ml of 15% by volume of sodium hydroxide and 6.3 ml of water. The mixture was allowed to stir at room temperature for approximately 4 hours and filtered through Celite. The filtrate was concentrated under vacuum to provide 6.38 g of 4-pyridineethanol. This material was used directly in the following reaction.

reactant | 4-pyridineacetic acid ethyl ester | 0.091 mol, Fifteen grams | C(C)OC(CC1=CC=NC=C1)=O | C9H11NO2
reactant | lithium aluminum hydride | 0.055 mol, 1.0 M, 55 ml | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 180 ml | C1CCOC1 | C4H8O
product | 4-pyridineethanol | 6.38 g | N1=CC=C(C=C1)CCO | C7H9NO
